US06166010
A mixture of 1.74 g (15.2 mmol) of methanesulfonyl chloride and 10 ml of tetrahydrofuran is added dropwise to a mixture of 4.5 g (13.8 mmol) of N-(2,6-difluorobenzoyl)-3-amino-3-(4-chlorophenyl)-1-propanol, 1.54 g (15.2 mmol) of triethylamine and 50 ml of tetrahydrofuran, while cooling with ice and stirring. The mixture is stirred at room temperature for 2 hours and filtered, and the filtrate is concentrated in vacuo. The residue is taken up in 50 ml of methanol, 2 g of potassium hydroxide are added and the mixture is stirred at 70° C. for 30 minutes. After customary working up, the crude product is purified by column chromatography on silica gel using the mobile phase n-hexane/ethyl acetate 8/2. 3.1 g (72.9%) of 2-(2,6-difluorophenyl)-4-(4-chlorophenyl)-5,6-dihydro-(4H)1,3-oxazine are obtained as a colorless oil.

reactant | methanesulfonyl chloride | 15.2 mmol, 1.74 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-(2,6-difluorobenzoyl)-3-amino-3-(4-chlorophenyl)-1-propanol | 13.8 mmol, 4.5 g | FC1=C(C(=O)NC(CCO)C2=CC=C(C=C2)Cl)C(=CC=C1)F | C16H14ClF2NO2
reactant | triethylamine | 15.2 mmol, 1.54 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(2,6-difluorophenyl)-4-(4-chlorophenyl)-5,6-dihydro-(4H)1,3-oxazine | 3.1 g, 72.9% | FC1=C(C(=CC=C1)F)C=1OCCC(N1)C1=CC=C(C=C1)Cl | C16H12ClF2NO
